US09085578B2
N-(6-bromopyridin-2-yl)formamide
To acetic anhydride (1.5 mL) was added dropwise formic acid (0.73 mL) under ice-cooling, and the mixture was stirred at 55° C. for 45 min. The mixture was allowed to be warmed to room temperature, tetrahydrofuran (20 mL) was added thereto, and a solution of 6-bromopyridin-2-amine (1.00 g) in tetrahydrofuran (10 mL) was added dropwise thereto over 3 min under ice-cooling. The reaction mixture was stirred at room temperature for 1.5 hr. The reaction solution was concentrated under reduced pressure, and the obtained white solid was subjected to azeotropy with toluene, and washed with hexane to give the title compound (1.1 g).

reactant | acetic anhydride | 1.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 0.73 mL | C(=O)O | CH2O2
reactant | 6-bromopyridin-2-amine | 1.00 g | BrC1=CC=CC(=N1)N | C5H5BrN2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(6-bromopyridin-2-yl)formamide | 1.1 g | BrC1=CC=CC(=N1)NC=O | C6H5BrN2O
